US04053620
70 g (0.178 mole) of N-(4-ethoxyphenyl)-N'-(2,3-dibromopropionyl)-urea and 72 g of potassium tert. -butylate (90% strength, about 0.58 mole) in 400 ml of tert.-butanol were heated under reflux for 30 minutes, the solvent was distilled off and the residue was warmed to 120° C. in vacuo for 20 minutes. The batch was then taken up in 500 ml of hot water, the mixture was filtered and the filtrate was acidified with dilute hydrochloric acid. The product which had precipitated was filtered off and dried. 30 g of 1-(4-ethoxyphenyl)-5-methylene-2,4-dioxo-imidazolidine were obtained.

reactant | N-(4-ethoxyphenyl)-N'-(2,3-dibromopropionyl)-urea | 0.178 mole, 70 g | C(C)OC1=CC=C(C=C1)NC(=O)NC(C(CBr)Br)=O | C12H14Br2N2O3
solvent | tert.-butanol | 400 ml | C(C)(C)(C)O | C4H10O
product | 1-(4-ethoxyphenyl)-5-methylene-2,4-dioxo-imidazolidine | 30 g | C(C)OC1=CC=C(C=C1)N1C(NC(C1=C)=O)=O | C12H12N2O3
